US08334376B2
To a solution of (3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 4-nitrophenyl carbonate (29 mg, 0.054 mmol) in CH2Cl2 was added 2-morpholinoethanamine (70.2 mg, 0.54 mmol). The resultant mixture was stirred at rt for 16 h and then purified via preparative TLC to afford (3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl (2-morpholinoethyl)carbamate (18 mg, 61.4%) as a white solid. LRMS (M+H+) m/z 543.4. 1H NMR (CD3OD, 400 MHz) δ 7.89 (dd, J=9.6, 2.4 Hz, 1H), 7.33 (m, 1H), 6.18 (d, J=9.6 Hz, 1H), 4.82 (m, 1H), 3.59 (m, 4H), 3.16 (m, 2H), 2.46 (m, 2H), 2.41 (m, 5H), 1.08-2.15 (m, 21H), 0.87 (s, 3H), 0.61 (s, 3H).

reactant | (3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 4-nitrophenyl carbonate | 0.054 mmol, 29 mg | C(O[C@H]1CC[C@@]2([C@H]3CC[C@@]4([C@H](CC[C@@]4([C@@H]3CC[C@@H]2C1)O)C=1C=CC(OC1)=O)C)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C31H37NO8
reactant | 2-morpholinoethanamine | 0.54 mmol, 70.2 mg | O1CCN(CC1)CCN | C6H14N2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl (2-morpholinoethyl)carbamate | 18 mg, 61.4% | O1CCN(CC1)CCNC(O[C@H]1CC[C@@]2([C@H]3CC[C@@]4([C@H](CC[C@@]4([C@@H]3CC[C@@H]2C1)O)C=1C=CC(OC1)=O)C)C)=O | C31H46N2O6
